US08859574B2
A mixture of (E)-N′-hydroxyisobutyrimidamide (510 mg, 5 mmol), 3-chloropropanoic acid (542 mg, 5 mmol) and dicyclohexylcarbodiimide (1.24 g, 6 mmol) in anhydrous dioxane (20 mL) was stirred at 0° C. for 1 h and then at room temperature for an additional 1 h. The reaction was then heated at 80° C. for an additional 18 h. The reaction was filtered and the filtrate was evaporated. The resulting residue was purified by silica chromatography (0-100% EtOAc in hexanes gradient) to give 5-(2-chloroethyl)-3-isopropyl-1,2,4-oxadiazole; 1H NMR (400 MHz, CDCl3) δ 3.85 (t, J=7.2 Hz, 2H), 3.27 (t, J=7.2 Hz, 2H), 3.03 (septet, J=7.2 Hz, 1H), 1.13 (d, J=7.2 Hz, 6H); ESMS m/z 175.1 (M+H+).

reactant | (E)-N′-hydroxyisobutyrimidamide | 5 mmol, 510 mg | O/N=C(\C(C)C)/N | C4H10N2O
reactant | 3-chloropropanoic acid | 5 mmol, 542 mg | ClCCC(=O)O | C3H5ClO2
reactant | dicyclohexylcarbodiimide | 6 mmol, 1.24 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-(2-chloroethyl)-3-isopropyl-1,2,4-oxadiazole | ClCCC1=NC(=NO1)C(C)C | C7H11ClN2O
